US08207178B2
Step C: 4-(4-(2,6-dimethyl-4-(pyridin-4-yl)phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-6-ylamino)benzonitrile
Trifluoroacetic acid (8 eq) is added to a suspension of 7-(2,6-dimethyl-4-(pyridin-4-yl)phenoxy)-5-chloro-1H-[1,2,3]triazolo[4,5-d]pyrimidine (1 eq) and 4-aminobenzonitrile (4 eq) in 2,2,2-trifluoroethanol (1 ml/0.1 mmol) in a sealed tube. The resulting mixture is heated at 90° C. for 3 days. The reaction is cooled to room temperature, concentrated to dryness and purified by silica gel chromatography.

reactant | Trifluoroacetic acid | 8 eq | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-(2,6-dimethyl-4-(pyridin-4-yl)phenoxy)-5-chloro-1H-[1,2,3]triazolo[4,5-d]pyrimidine | 1 eq | CC1=C(OC=2C3=C(N=C(N2)Cl)N=NN3)C(=CC(=C1)C1=CC=NC=C1)C | C17H13ClN6O
reactant | 4-aminobenzonitrile | 4 eq | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 2,2,2-trifluoroethanol | 0.1 mmol, 1 ml | FC(CO)(F)F | C2H3F3O
product | 4-(4-(2,6-dimethyl-4-(pyridin-4-yl)phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-6-ylamino)benzonitrile | CC1=C(OC2=C3C(=NC(=N2)NC2=CC=C(C#N)C=C2)NN=C3)C(=CC(=C1)C1=CC=NC=C1)C | C25H19N7O
